US09403810B2
Step 5: [2-(4-Isopropoxycyclohex-1-en-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane]
To a stirred solution of [4-isopropoxycyclohex-1-en-1-yl trifluoromethanesulfonate] (459 mg, 1.592 mmol) in dry dioxane (15 mL), bis(pinacolato)diboron (Alfa Aesar) (404 mg, 1.592 mmol) was added followed by potassium acetate (Acros) (313 mg, 3.18 mmol) and PdCl2(dppf).CH2Cl2 adduct (Alfa Aesar) (39.0 mg, 0.048 mmol). The flask was flushed with nitrogen and heated to 80° C. overnight. The resulting mixture was cooled to room temperature and filtered through Celite®, washing with TBME. The organic filtrate was concentrated under reduced pressure and the residue partitioned between EtOAc (50 mL) and water (50 mL). The organic phase was washed with brine (30 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography eluting with 0-30% EtOAc in iso-hexane afforded the title compound.

reactant | 4-isopropoxycyclohex-1-en-1-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CCC(CC1)OC(C)C)(F)F | C10H15F3O4S
reactant | bis(pinacolato)diboron | 1.592 mmol, 404 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.18 mmol, 313 mg | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 0.048 mmol, 39.0 mg | C(Cl)Cl | CH2Cl2
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-Isopropoxycyclohex-1-en-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | C(C)(C)OC1CC=C(CC1)B1OC(C(O1)(C)C)(C)C | C15H27BO3
